US05959107
N1-Benzyl-5-(5-isoquinolylsulfanyl)-2-nitroaniline 840 mg (2.2 mmol) was dissolved in concentrated hydrochloric acid 25 ml, stannous chloride dihydrate 2.45 g (10.8 mmol) was added, and the mixture was stirred overnight at room temperature. 50% sodium chloride was added to obtain an alkaline solution, and the solution was extracted with ethyl acetate. The organic layer was washed with water and with saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and N2-benzyl-4-(5-isoquinolylsulfanyl)-1,2-benzene diamine 730 mg (94.1%) was obtained.

reactant | N1-Benzyl-5-(5-isoquinolylsulfanyl)-2-nitroaniline | 2.2 mmol, 840 mg | C(C1=CC=CC=C1)NC1=C(C=CC(=C1)SC1=C2C=CN=CC2=CC=C1)[N+](=O)[O-] | C22H17N3O2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | N2-benzyl-4-(5-isoquinolylsulfanyl)-1,2-benzene diamine | 730 mg, 94.1% | C(C1=CC=CC=C1)NC=1C(=CC=C(C1)SC1=C2C=CN=CC2=CC=C1)N | C22H19N3S
